US06211199B1
104.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(4-fluorophenyl)pyrrolidine
Prepare by the method of Example 4.1 using 1-(3,4,5-trimethoxybenzoyl)-3-(4-fluorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (2.65 g, 5.5 mmol) (prepared from (+)-1-(3,4,5-trimethoxybenzoyl)-3-(4-fluorophenyl)-3-(2-hydroxyethyl)pyrrolidine) and (1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt (3.9 g, 8.25 mmol) to give, after chromatography on silica gel eluting with methanol/ethyl acetate 1/1, the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(4-fluorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 5.5 mmol, 2.65 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=C(C=C2)F)C=C(C1OC)OC | C23H28FNO7S
reactant | (1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt | 8.25 mmol, 3.9 g | I.N1C(=NC2=C1C=CC=C2)NC2CCNCC2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(4-fluorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=C(C=C2)F)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H40FN5O4
